US09315521B2
To a solution of the 2-{[(2-chloro-5-methoxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (1.0 g, 3.36 mmol) compound in anhydrous dichloromethane at 0° C., 1 M solution of boron tribromide (0.844 g, 3.36 mmol) was added. The reaction mixture was stirred at room temperature overnight. Then, the reaction mixture was quenched with sodium bicarbonate solution and the solid was filtered. The crude solid was purified by using dichloromethane and methanol (1:10) to provide the product 2-{[(2-chloro-5-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as a white solid (0.62 g, 65% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (s, 3H), 4.34 (s, 2H), 5.98 (bs, 1H), 6.66 (d, J=8.8 Hz, 1H), 6.97 (s, 1H), 7.20 (d, J=8.8 Hz, 1H); M+283.06.

reactant | 2-{[(2-chloro-5-methoxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 3.36 mmol, 1.0 g | ClC1=C(C=C(C=C1)OC)CSC1=NC(=CC(=N1)O)C | C13H13ClN2O2S
reactant | boron tribromide | 3.36 mmol, 0.844 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-{[(2-chloro-5-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.62 g, 65% yield | ClC1=C(C=C(C=C1)O)CSC1=NC(=CC(=N1)O)C | C12H11ClN2O2S
